US04330539
(a) 17β-Methylamino-androst-5-ene-3β,16α-diol 3 acetate
3β,16α-bis(Acetyloxy)-androst-5-en-17-one (2.04 g) was dissolved in methylamine solution (20.4 ml; 33% in methanol) and the solution was stirred at room temperature for 20 min. during which time the 17,17-methylimine crystallised out. Sodium borohydride (1.02 g) was added portionwise to the stirred suspension, keeping the temperature below 25° C. After 11/2 h., the excess methylamine was removed under reduced pressure, water (200 ml) was added, and the mixture was extracted with dichloromethane. The extracts were washed with water, dried (Na2SO4) and evaporated to give a white froth (2.07 g), crystallisation of which from dichloromethane-ether afforded pure 17β-methylamino-androst-5-ene-3β,16α-diol 3-acetate as needles, (1.74 g; 91.6%) m.p. 192°-194° C., [α]D -79.4° (c 0.75 in CHCl3).

reactant | 3β,16α-bis(Acetyloxy)-androst-5-en-17-one | 2.04 g | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)OC(C)=O | C23H32O5
reactant | methylamine | 20.4 ml | CN | CH5N
product | 17β-Methylamino-androst-5-ene-3β,16α-diol 3 acetate | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)NC)O | C22H35NO3
